US07576222B2
2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-METHYL-1H-INDOL-3-YL)-PROPIONIC Acid
Triethylamine (0.38 mL, 2.75 mmol) was added to a solution of 5-methyl-DL-tryptophan (0.20 g, 0.92 mmol) and 4-but-2-ynyloxy-benzenesulfonyl chloride (0.25 g, 1.01 mmol) in H2O-dioxane (1.6 mL/2.4 mL) at room temperature. The reaction mixture was stirred for 20 hours at room temperature. The mixture was then concentrated and acidified with HCl. The mixture was extracted with ethyl acetate (3×10 mL). The organic solution was washed with H2O and brine, dried over Na2SO4, and concentrated. The residue was purified by RP-HPLC to give 0.32 g (81%) of the title compound as a pale yellow solid. Mp=45-46° C.; 1H NMR (DMSO-d6): 400 MHz δ 12.54 (bs, 1H), 10.64 (s, 1H), 8.05 (d, J=8.0 Hz, 1H), 7.53 (m, 2H), 7.17 (d, J=8.0 Hz, 1H), 7.00 (m, 2H), 6.95 (m, 2H), 6.86 (dd J=8.0, 4.0 Hz, 1H), 4.78 (q, J=2.4 Hz, 2H), 3.81 (q, J=7.6 Hz, 1H), 3.00 (dd J=14.4, 6.8 Hz, 1H), 2.79 (dd J=14.4, 7.8 Hz, 1H), 2.33 (s, 3H), 1.82 (t, J=2.4 Hz, 3H); HRMS: calcd for C22H23N2O5S (ESI+, [M+H]1+), 427.1322; found 427.1327; LCMS m/z (ESI) [M+H]1+ 427, retention time=2.69 min.

reactant | Triethylamine | 2.75 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-DL-tryptophan | 0.92 mmol, 0.20 g | CC1=CC=C2NC=C(CC(N)C(=O)O)C2=C1 | C12H14N2O2
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | 1.01 mmol, 0.25 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | H2O dioxane | 1.6 mL | O.O1CCOCC1
product | 2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-METHYL-1H-INDOL-3-YL)-PROPIONIC Acid | 0.32 g, 81% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1=CNC2=CC=C(C=C12)C | C22H22N2O5S
